US07214677B2
D: 2-Chloro-N-[2-(2-chloro-phenyl)-ethyl]-5-(5-oxo-1,5-dihydro-[1,2,4]triazol-4-yl)-benzamide
To a solution of 2-chloro-5-(5-oxo-1,5-dihydro-[1,2,4]triazol-4-yl)-benzoic acid (0.028 g, 0.117 mmol) in anhydrous dimethyl fomamide (DMF) (4 mL) was added 1-hydroxybenzotriazole (0.018 g, 0.14 mmol). After stirring at room temperature for 10 minutes, 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.025 g, 0.13 mmol) was added. After stirring at room temperature for 30 minutes, 2-chlorophenethylamine (0.018 g, 0.12 mmol) and triethylamine (0.012 g, 0.12 mmol) were added and the mixture stirred at room temperature overnight. The reaction mixture was diluted with EtOAc, washed sequentially with water and brine, and dried over sodium sulfate. Removal of solvent in vacuo followed by purification by reverse phase HPLC yielded 0.042 g (10%) of the title compound as a colorless solid. 1H NMR (300 MHz, CDCl3) δ (m, 2H), 3.45 (m, 2H), 7.25 (m, 2H), 7.35 (m, 2H), 7.60 (d, J=7.9 Hz, 1H), 7.76 (s, 1H), 7.78 (s, 1H), 8.43 (s, 1H) and 8.64 (m, 1H). Mass Spectrum (M−H) 3:1 Ratio of 375 and 377.

reactant | 2-chloro-5-(5-oxo-1,5-dihydro-[1,2,4]triazol-4-yl)-benzoic acid | 0.117 mmol, 0.028 g | ClC1=C(C(=O)O)C=C(C=C1)N1C=NNC1=O | C9H6ClN3O3
reactant | 1-hydroxybenzotriazole | 0.14 mmol, 0.018 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.13 mmol, 0.025 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-chlorophenethylamine | 0.12 mmol, 0.018 g | ClC1=C(CCN)C=CC=C1 | C8H10ClN
reactant | triethylamine | 0.12 mmol, 0.012 g | C(C)N(CC)CC | C6H15N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Chloro-N-[2-(2-chloro-phenyl)-ethyl]-5-(5-oxo-1,5-dihydro-[1,2,4]triazol-4-yl)-benzamide | 0.042 g, 10% | ClC1=C(C(=O)NCCC2=C(C=CC=C2)Cl)C=C(C=C1)N1C=NNC1=O | C17H14Cl2N4O2
